US09259470B2
KOt-Bu (224 mg, 2 mmol) and n-Bu4NI (37 mg, 0.1 mmol) were added to a mixture of tert-butyl 2-((methylsulfonyloxy)methyl)-1H-indole-1-carboxylate (350 mg, 1.07 mmol) and 4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (272 mg, 1 mmol) in anhydrous THF (15 mL). The resulting mixture was stirred at 70° C. under microwave irradiation for 2 hours. LC-MS showed the tert-butyl 2-(((methylsulfonyl)oxy)methyl)-1H-indole-1-carboxylate had disappeared. The reaction mixture was treated with water (20 mL) and diluted with dichloromethane. After removal of the insolubles by filtration, the filtrate was extracted with dichloromethane. The combined organic phase was dried with Na2SO4 and concentrated. The residue was purified with Combiflash (A: H2O including 0.5% NH3HCO3, B: CH3CN) to afford tert-butyl 2-((2-oxo-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-1(2H)-yl)methyl)-1H-indole-1-carboxylate (130 mg, 26% yield).

reactant | KOt-Bu | 2 mmol, 224 mg | CC(C)(C)[O-].[K+]
reactant | tert-butyl 2-((methylsulfonyloxy)methyl)-1H-indole-1-carboxylate | 1.07 mmol, 350 mg | CS(=O)(=O)OCC=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C15H19NO5S
reactant | 4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 1 mmol, 272 mg | O1CCC(CC1)NC1=NC=CC(=N1)C1=CC(NC=C1)=O | C14H16N4O2
reactant | water | 20 mL | O | H2O
catalyst | n-Bu4NI | 0.1 mmol, 37 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | CH3CN | CC#N | C2H3N
product | tert-butyl 2-((2-oxo-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-1(2H)-yl)methyl)-1H-indole-1-carboxylate | 130 mg, 26% yield | O=C1N(C=CC(=C1)C1=NC(=NC=C1)NC1CCOCC1)CC=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C28H31N5O4
